US04925834
500 mg of 19-methylthio-4-androstene-3,17-dione (European patent 100,566) is added to a suspension of 5.21 g of chloromethyl triphenylphosphonium chloride in 50 ml of tetrahydrofuran, which was stirred with 9.5 ml of (1.6 m of butyllithium in ether) 0.5 hours at 20° C., and stirred for 30 minutes at 0° C. Then it is mixed with water, extracted three times with ethyl acetate, washed neutral, dried on sodium sulfate and concentrated to dryness. 995 mg of raw product is obtained, which after chromatographic purification yields 273 mg of pure 3-chloromethylene-19-methylthio-4-androsten-17-one with a melting point of 114°-115° C., [α]D +241.5° C. (CHCl3), as pure E form.

reactant | 19-methylthio-4-androstene-3,17-dione | 500 mg | CSC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C20H28O2S
reactant | chloromethyl triphenylphosphonium chloride | 5.21 g | [Cl-].ClC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | C(CCC)[Li]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-chloromethylene-19-methylthio-4-androsten-17-one | 273 mg | ClC=C1C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)CSC)=O | C21H29ClOS
